US08791119B2
A mixture of 6.00 g (14.2 mmol) of 2-tert-butyl 8-ethyl 6-chloro-7-(3-fluorophenyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2,8(1H)-dicarboxylate, 13.4 g (212 mmol) of ammonium formate (CAS 540-69-2) and 0.6 g of 10% palladium-on-charcoal containing 50% water in 50 ml of methanol is stirred at reflux for 45 minutes. After cooling, the mixture is filtered through a Buchner funnel and the filtrate is concentrated under reduced pressure. The residue is taken up in ethyl acetate, the solution is washed with aqueous 2N sodium hydroxide solution and then dried over sodium sulfate, and the solvent is evaporated off under reduced pressure, to give 5.5 g of 2-tert-butyl 8-ethyl 7-(3-fluorophenyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2,8(1H)-dicarboxylate in the form of a yellow oil.

reactant | 2-tert-butyl 8-ethyl 6-chloro-7-(3-fluorophenyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2,8(1H)-dicarboxylate | 14.2 mmol, 6.00 g | ClC1=C(C(=C2N1CCN(C2)C(=O)OC(C)(C)C)C(=O)OCC)C2=CC(=CC=C2)F | C21H24ClFN2O4
reactant | ammonium formate | 212 mmol, 13.4 g | C(=O)[O-].[NH4+]
solvent | methanol | 50 ml | CO | CH4O
catalyst | palladium-on-charcoal | 0.6 g | [Pd] | Pd
product | 2-tert-butyl 8-ethyl 7-(3-fluorophenyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2,8(1H)-dicarboxylate | 5.5 g | FC=1C=C(C=CC1)C=1C(=C2N(CCN(C2)C(=O)OC(C)(C)C)C1)C(=O)OCC | C21H25FN2O4
